US08431563B2
To a solution of tert-butyl (2-(((6-chloro-3-pyridinyl)sulfonyl)(2-oxo-3-pentyn-1-yl)amino)ethyl)carbamate (1.0 g, 2.40 mmol) in CH2Cl2 (40 mL) at 0° C. was added TFA (4.0 mL, 51.9 mmol). After 20 min, additional TFA (4.0 mL, 51.9 mmol) was added and the cooling bath was removed. After 50 min at room temperature, solid sodium triacetoxyborohydride (2.1 g, 9.91 mmol) was added. The mixture was stirred at room temperature for 20 min then MeOH (5 mL) was added. The mixture was concentrated to about ⅕ its original volume and then saturated aqueous NaHCO3 (20 mL) was added. The pH of the aqueous layer was adjusted to about 8 with NaOH (1 N) and then the mixture was extracted with CHCl3 (containing 10% iPrOH) (3×10 mL). The combined organic extracts were dried with Na2SO4, filtered, and concentrated. The resulting orange oil was purified by chromatography on silica gel using (1 to 5% MeOH in EtOAc) to give 1-((6-chloro-3-pyridinyl)sulfonyl)-3-(1-propyn-1-yl)piperazine as a light-yellow solid (0.39 g)

reactant | tert-butyl (2-(((6-chloro-3-pyridinyl)sulfonyl)(2-oxo-3-pentyn-1-yl)amino)ethyl)carbamate | 2.40 mmol, 1.0 g | ClC1=CC=C(C=N1)S(=O)(=O)N(CCNC(OC(C)(C)C)=O)CC(C#CC)=O | C17H22ClN3O5S
reactant | TFA | 51.9 mmol, 4.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 51.9 mmol, 4.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium triacetoxyborohydride | 9.91 mmol, 2.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | MeOH | 5 mL | CO | CH4O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-((6-chloro-3-pyridinyl)sulfonyl)-3-(1-propyn-1-yl)piperazine | 0.39 g | ClC1=CC=C(C=N1)S(=O)(=O)N1CC(NCC1)C#CC | C12H14ClN3O2S
